US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)cyclopropanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)cyclo propanesulfonamide (80 mg, 0.119 mmol) was hydrolyzed by lithium hydroxide (0.0109 g, 0.238 mmol), THF/Methanol/water (12/8/4 mL) to afford 5 mg (8.19% yield) of the titled compound. 1H NMR (DMSO-d6, 300 MHz): δ 11.8 (s, 1H), 9.04 (s, 1H), 8.44-8.42 (d, 2H), 8.29 (s, 1H), 7.96 (s, 1H), 7.77 (s, 1H), 7.61-7.58 (m, 2H0, 7.20-7.10 (m, 4H), 5.41 (s, 2H), 3.88 (s, 3H), 0.92-0.88 (m, 4H). MS: m/z=517.8 (M+1), HPLC: 84.12% Method B.

reactant | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)cyclo propanesulfonamide | 0.119 mmol, 80 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C3CC3)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C34H30FN5O5S2
reactant | lithium hydroxide | 0.238 mmol, 0.0109 g | [OH-].[Li+]
solvent | THF Methanol water | 4 mL | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)cyclopropanesulfonamide | 5 mg, 8.19% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C3CC3)OC)C=CC1 | C27H24FN5O3S
